US03984397
To a solution of 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-[2-(2-thienyl)acetamido]penam-3-carboxylate (1.4 g.) in a mixture of dimethylformamide (7.5 ml.) and acetic acid (1.75 ml.) was added zinc powder (1.8 g.) unde ice cooling, and the mixture was stirred for 1 hour. After the reaction, the reaction mixture was post-treated in the similar manner as described in Example 1 to give 2-methyl-2,3-methylene-6-[2-(2-thienyl)acetamido]penam-3-carboxylic acid (0.8 g.), mp 106° to 108°C (dec.) Infrared Absorption Spectrum (Nujol): 3350, 1765, 1720 cm-1

reactant | 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-[2-(2-thienyl)acetamido]penam-3-carboxylate | 1.4 g | CC12S[C@H]3N(C1(C(=O)OCC(Cl)(Cl)Cl)C2)C(C3NC(CC=3SC=CC3)=O)=O | C16H15Cl3N2O4S2
solvent | dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 1.75 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.8 g | [Zn] | Zn
product | 2-methyl-2,3-methylene-6-[2-(2-thienyl)acetamido]penam-3-carboxylic acid | 0.8 g | CC12S[C@H]3N(C1(C(=O)O)C2)C(C3NC(CC=3SC=CC3)=O)=O | C14H14N2O4S2
